### PR TITLE
Some repair for Example.ShanZun

### PR DESCRIPTION
**Pull request by stupidchunchun**

### CODE REVIEW

File: EuclideanGeometry/Example/ArefWernick/Chap1.lean [hunk 1]
```diff
@@ -24,7 +24,7 @@ variable {M₁ M₂ : P} {hm₁ : M₁ = (SEG B₁ C₁).midpoint} {hm₂ : M₂
 -- We have $A_1B_1 = A_2B_2$, $A_1C_1 = A_2C_2$, and $A_1M_1 = A_2M_2$.
 variable {h₁ : (SEG A₁ B₁).length = (SEG A₂ B₂).length} {h₂ : (SEG A₁ C₁).length = (SEG A₂ C₂).length} {h₃ : (SEG A₁ M₁).length = (SEG A₂ M₂).length}
 
-theorem Aref_Wernick_Exercise_1_1 : (▵ A₁ B₁ C₁).IsCongr (▵ A₂ B₂ C₂) := sorry
+theorem Aref_Wernick_Exercise_1_1 : (TRI_nd A₁ B₁ C₁ hnd₁) ≅ (TRI_nd A₂ B₂ C₂ hnd₂) := sorry
```
Comment (jjdishere) [inline EuclideanGeometry/Example/ArefWernick/Chap1.lean:27]: the main theorem also need a comment, just as assumptions.

File: EuclideanGeometry/Example/ShanZun/Ex1.lean [hunk 2]
```diff
@@ -14,9 +14,27 @@ namespace Shan_Problem_1_1
...
+variable {D : P} {hd : D = perp_foot A (LIN B C b_ne_c.symm)}
+-- $AE$ be the angle bisector of $\triangle ABC$ --`May change in future, a triangle_nd's AngBis should be a Seg_nd`
+variable {E : P} {he : is_inx E (SEG B C) (ANG A B C a_ne_b b_ne_c.symm).AngBis}
+-- Claim : $D \ne A$ and $E \ne A$
+lemma d_ne_a : D ≠ A := sorry
+lemma e_ne_a : E ≠ A := sorry
 
--- Let $\triangle ABC$ be an nondegenerate triangle.
-
+theorem Shan_Problem_1_1 : ∠ D A E d_ne_a e_ne_A = (1 / 2) * (∠ C B A b_ne_c.symm a_ne_b - ∠ A C B c_ne_a.symm b_ne_c) := by
```
Comment (jjdishere) [inline EuclideanGeometry/Example/ShanZun/Ex1.lean:31]: theorem need comments

File: EuclideanGeometry/Example/ShanZun/Ex1.lean [hunk 3]
```diff
@@ -14,9 +14,27 @@ namespace Shan_Problem_1_1
...
+  have ang₁ : ∠ B A E a_ne_b.symm e_ne_a - ∠ D A E d_ne_a e_ne_a = ∠ B A D a_ne_b d_ne_a := sorry
```
Comment (jjdishere) [inline EuclideanGeometry/Example/ShanZun/Ex1.lean:32]: small lemmas, proof steps need comments

File: EuclideanGeometry/Example/ShanZun/Ex1.lean [hunk 4]
```diff
@@ -14,9 +14,27 @@ namespace Shan_Problem_1_1
...
+  have ang₂ : ∠ E A C e_ne_a c_ne_a + ∠ D A E d_ne_a e_ne_a = ∠ D A C d_ne_a c_ne_a := sorry
+  have ang₃ : ∠ B A E a_ne_b.symm e_ne_a = ∠ E A C e_ne_a c_ne_a := sorry
+  have ang₄ : ∠ D A C d_ne_a c_ne_a - ∠ B A D a_ne_b d_ne_a = ∠ C B A b_ne_c.symm a_ne_b - ∠ A C B c_ne_a.symm b_ne_c := sorry
+  rw[← ang₄, ← ang₂, ← ang₁, ← ang₃]
+  ring
 end Shan_Problem_1_1
 
 theorem Seg_nd.not_lies_int_extn_and_rev_extn_of_lies_on {A : P} {seg_nd : Seg_nd P} (lieson : A LiesOn seg_nd.1) : ¬ A LiesInt seg_nd.extension ∧ ¬ A LiesInt seg_nd.reverse.extension := by
```
Comment (jjdishere) [inline EuclideanGeometry/Example/ShanZun/Ex1.lean:40]: Please create a ray.trash file and put this lemma into it. Then import this file.

File: EuclideanGeometry/Example/ShanZun/Ex1c.lean [hunk 5]
```diff
@@ -209,15 +209,18 @@ namespace Shan_Problem_1_8
...
 Prove that $FG \perp DE$. -/
 variable {A B C : P} {hnd : ¬ colinear A B C}
-lemma b_ne_a : B ≠ A := (ne_of_not_colinear hnd).2.2
-lemma c_ne_a : C ≠ A := (ne_of_not_colinear hnd).2.1.symm
-lemma b_ne_c : B ≠ C := (ne_of_not_colinear hnd).1.symm
+-- Claim: $A \ne B$ and $B \ne C$ and $C \ne A$.
+lemma a_ne_b : A ≠ B := sorry
+lemma b_ne_c : B ≠ C := sorry
+lemma c_ne_a : C ≠ A := sorry
 --introduce the perps
```
Comment (jjdishere) [inline EuclideanGeometry/Example/ShanZun/Ex1c.lean:216]: this comment does not meet the standard of comment

File: EuclideanGeometry/Example/ShanZun/Ex1e.lean [hunk 6]
```diff
@@ -0,0 +1,44 @@
...
+namespace Shan_Problem_2_18
+/- In $\triangle ABC$ $AB < BC$. Let CD be the height, $CE$ be the bisector of $\angle ACB$ and $CF$ be the median.
+
+Prove that If CE liesInt CD and CF, and $\angle ACB=90°$, then CE is the bisector of $\angle FCD$.  -/
+variable {A B C : P} {hnd : ¬ colinear A B C}
+-- Claim: $A \ne B$ and $B \ne C$ and $C \ne A$.
+lemma a_ne_b : A ≠ B := sorry
+lemma b_ne_c : B ≠ C := sorry
+lemma c_ne_a : C ≠ A := sorry
+-- Introduce the height CD , bisector CE and median CF.
```
Comment (jjdishere) [inline EuclideanGeometry/Example/ShanZun/Ex1e.lean:35]: can write better

**Review by jjdishere — CHANGES_REQUESTED** [review]
